US06063810
6 g of N-methyl-O-methyl-2-(2-bromophenoxy)pentanohydroxamic acid and 190 ml of anhydrous tetrahydrofuran are placed in a 500 ml round-bottomed flask. The solution is cooled to -10° C. and 19 ml of a 3M solution of methylmagnesium bromide in ether are slowly added. The mixture is stirred for 45 minutes and 60 ml of a molar hydrochloric acid solution are slowly added. The mixture is extracted with 3×100 ml of ethyl ether. The combined organic phases are dried over magnesium sulphate, filtered and concentrated under vacuum to provide 5.13 g of 3-(2-bromophenoxy)-2-hexanone in the form of a colourless oil. Quantitative yield.

reactant | N-methyl-O-methyl-2-(2-bromophenoxy)pentanohydroxamic acid | 6 g | CN(OC)C(C(CCC)OC1=C(C=CC=C1)Br)=O | C13H18BrNO3
reactant | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-(2-bromophenoxy)-2-hexanone | 5.13 g, Quantitative yield | BrC1=C(OC(C(C)=O)CCC)C=CC=C1 | C12H15BrO2
